US08865698B2
(R)—N1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-N2,N2-dimethyloxalamide
To a DCM (1 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 50 mg, 0.16 mmol) was drop-wise added methyl 2-chloro-2-oxoacetate (19.4 mg, 0.159 mmol), followed by DIEA (0.0829 mL, 0.476 mmol). After the mild exothermal subsided and the reaction cooled back to ambient temperature, dimethylamine (0.8 mL, 1.6 mmol) [2M, THF] was added. The reaction was heated to gentle reflux for a few minutes, allowed to cool back to ambient temperature and stirred for 1 hour to reach completion. The reaction was concentrated and directly purified by reverse phase column chromatography, eluting with 5 to 60% acetonitrile/water to yield the final product as a pale-yellowish solid (48 mg, 73% yield). MS (apci) m/z=415.1 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.16 mmol, 50 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | methyl 2-chloro-2-oxoacetate | 0.159 mmol, 19.4 mg | ClC(C(=O)OC)=O | C3H3ClO3
reactant | DIEA | 0.476 mmol, 0.0829 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 1.6 mmol, 2M, 0.8 mL | CNC | C2H7N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)—N1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-N2,N2-dimethyloxalamide | 48 mg, 73% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C(=O)N(C)C)=O | C20H20F2N6O2
